US06653313B2
F. [4-(2,6-dichlorophenyl)-6-(2-{2-[3-(dimethylamino)propyl]phenyl}ethyl)-3,5-bis(methoxycarbonyl)-1,4-dihydro-2-pyridinyl]acetic acid
To a solution of dimethyl 4-(2,6-dichlorophenyl)-2-(2-{2-[3-(dimethylamino)propyl]phenyl}ethyl)-6-(2-methoxy-2-oxoethyl)-1,4-dihydro-3,5-pyridinedicarboxylate (4.31 g, 7.14 mmol) in 1,4-dioxane (61 ml) was added 2N NaOH. The reaction mixture was stirred at room temperature for 2.5 h. The residual 1,4-dioxane was removed by evaporation in vacuo. The residue was diluted with water (19 ml) and washed with diethyl ether (50 ml×2) and AcOEt (20 ml). The water phase was then acidified with aq. NaH2PO4 to about pH 5. The whole was extracted with CH2Cl2 (300 ml×3). The combined extract was washed with brine, dried over MgSO4, and concentrated to afford the desired acid (4.30 g, 90% yield) as a yellow amorphous.

reactant | dimethyl 4-(2,6-dichlorophenyl)-2-(2-{2-[3-(dimethylamino)propyl]phenyl}ethyl)-6-(2-methoxy-2-oxoethyl)-1,4-dihydro-3,5-pyridinedicarboxylate | 7.14 mmol, 4.31 g | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC(=C1C(=O)OC)CC(=O)OC)CCC1=C(C=CC=C1)CCCN(C)C)C(=O)OC | C31H36Cl2N2O6
reactant | NaOH | 2N | [OH-].[Na+]
solvent | 1,4-dioxane | 61 ml | O1CCOCC1 | C4H8O2
product | [4-(2,6-dichlorophenyl)-6-(2-{2-[3-(dimethylamino)propyl]phenyl}ethyl)-3,5-bis(methoxycarbonyl)-1,4-dihydro-2-pyridinyl]acetic acid | 4.30 g, 90% yield | ClC1=C(C(=CC=C1)Cl)C1C(=C(NC(=C1C(=O)OC)CCC1=C(C=CC=C1)CCCN(C)C)CC(=O)O)C(=O)OC | C30H34Cl2N2O6
